US04655819
2-[2 -Fluoro-4-(6-chloroquinoxalin-2-yloxy)phenoxy]propionic acid (9)
Ethyl 2-[2-fluoro-4-(6-chloroquinoxalin-2-yloxy)phenoxy]propionate (3.23 g; 8.27 mmole) was dissolved in a warm mixture of isopropanol (150 ml) and tetrahydrofuran (30 ml). The solution was allowed to cool to a temperature of 25° C. and a solution of sodium hydroxide (0.34 g) in water (10 ml) was added slowly with stirring. The reaction mixture was stirred at room temperature for a period of 10 minutes and then aqueous 2M sodium hydroxide (0.5 ml) was added and the solution was stirred at room temperature for 5 hours. The solvent was removed from the reaction mixture by evaporation under reduced pressure and the residue was dissolved in water. The aqueous solution was treated with aqueous 2M hydrochloric acid until acidic and the precipitated product was collected by filtration and air dried. The product was recrystallised from toluene to give the title compound (1.83 g; 61%), mp 132°-138° C. The assigned structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | Ethyl 2-[2-fluoro-4-(6-chloroquinoxalin-2-yloxy)phenoxy]propionate | 8.27 mmole, 3.23 g | FC1=C(OC(C(=O)OCC)C)C=CC(=C1)OC1=NC2=CC=C(C=C2N=C1)Cl | C19H16ClFN2O4
reactant | sodium hydroxide | 0.34 g | [OH-].[Na+]
reactant | sodium hydroxide | 2M, 0.5 ml | [OH-].[Na+]
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 2-[2 -Fluoro-4-(6-chloroquinoxalin-2-yloxy)phenoxy]propionic acid | 1.83 g, 61% | FC1=C(OC(C(=O)O)C)C=CC(=C1)OC1=NC2=CC=C(C=C2N=C1)Cl | C17H12ClFN2O4
